US06333324B1
A solution of sodium carbonate (1.63 g) in H2O (7.65 ml), 4-fluorobenzeneboronic acid (1.03 g) and tetrakis(triphenylphosphine) palladium(0) (70.9 mg) were added successively to a solution of 2-bromothiophene (1.00 g) in dimethoxyethane (12.3 ml). The mixture was refluxed for 4 hours. The mixture was cooled to ambient temperature and partitioned between AcOEt and H2O. The organic layer was washed with 0.5N aqueous NaOH solution and saturated aqueous NaCl solution, dried over MgSO4 and concentrated in vacuo. The residue was purified by SiO2 column chromatography (eluent: n-hexane and then AcOEt in n-hexane 10%). The solvent was evaporated in vacuo to give 1.05 g of 2-(4-fluorophenyl)thiophene as a white solid.

reactant | sodium carbonate | 1.63 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-fluorobenzeneboronic acid | 1.03 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | 2-bromothiophene | 1.00 g | BrC=1SC=CC1 | C4H3BrS
solvent | H2O | 7.65 ml | O | H2O
solvent | dimethoxyethane | 12.3 ml | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine) palladium(0) | 70.9 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(4-fluorophenyl)thiophene | 1.05 g | FC1=CC=C(C=C1)C=1SC=CC1 | C10H7FS
